US07297700B2
Methyl 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine-4-carboxylate (0.2 g, 0.705 mmol) was dissolved in MeOH (10 mL). 10% NaOH solution (1.5 mL) was added. The solution was heated at 85° C. for 1 h. Solvent was removed under reduced pressure. The aqueous. layer was acidified to ca. pH 4. The aqueous layer was then extracted with DCM (2×50 mL) to remove organic impurities. The acidic aqueous layer was dried on the lyophilizer. The resulting solids were washed with MEOH (10 mL) and filtrate concentrated to give 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine-4-carboxylic acid (0.173 g, 0.642 mmol, 91%) as a brown oil. The resulting product was used without further purification.

reactant | Methyl 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine-4-carboxylate | 0.705 mmol, 0.2 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)C(=O)OC | C16H17N3O2
reactant | NaOH | 1.5 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine-4-carboxylic acid | 0.642 mmol, 0.173 g, 91% | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)C(=O)O | C15H15N3O2
